US09108944B2
A mixture of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (1.14 g, 5.1 mmol) and ammonium hydroxide (10 mL) in THF (10 mL) was heated to 60° C. for 18 h. The reaction mixture was cooled to room temperature and water and EtOAc were added. The aqueous layer was extracted with EtOAc (4×), the organics were combined, dried over sodium sulfate, and evaporated to dryness to afford 1 g of 3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-amine as beige solid. 1H NMR (300 MHz, DMSO-d6) δ 8.12 (d, 1H), 7.23 (s, 2H), 6.97 (d, 1H).

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 5.1 mmol, 1.14 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-amine | 1 g | FC(C1=NN=C2N1N=C(C=C2)N)(F)F | C6H4F3N5
